US08012992B2
N-(6-methoxypyridin-3-yl)pivalamide (Compound 1).
To a solution of 6-methoxy-pyridin-3-amine (Aldrich, 10.0 g, 77 mmol) in anhydrous CH2Cl2 (100 ml) at 0° C. was added Et3N (13.9 ml, 100.1 mmol) and a solution of pivaloyl chloride (10.5 ml, 84.7 mmol) in CH2Cl2 (20 ml). The mixture was stirred at 0° C. for 10 min and at room temperature for 2 h. After quenched with ice, the reaction was diluted with CH2Cl2, washed with 1M NaOH, brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by chromatography on silica gel (0→30% EtOAc-hexanes) to yield the title compound as orange solid.

reactant | 6-methoxy-pyridin-3-amine | 77 mmol, 10.0 g | COC1=CC=C(C=N1)N | C6H8N2O
reactant | Et3N | 100.1 mmol, 13.9 ml | CCN(CC)CC | C6H15N
reactant | pivaloyl chloride | 84.7 mmol, 10.5 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-(6-methoxypyridin-3-yl)pivalamide | COC1=CC=C(C=N1)NC(C(C)(C)C)=O | C11H16N2O2
